US07176242B2
Alternatively, iodo indole 5 is reacted with an alkyl halide, for example as propyl or butyl iodide, bromide, or chloride in the presence of a base, for example sodium hydride or potassium tert-butoxide, more preferably potassium tert-butoxide, in an organic solvent, for example THF, DMF or DMSO, preferrably DMSO, at a temperature from room temperature to about 100° C., to yield iodo alkyl 9. An Oxazole or a thiazole in an organic solvent, for example dialkyl ether or THF, at a temperature from about 0 to about −78° C. is reacted with a base, preferably butyl lithium and optionally left stirring for from about 15 to about 60 min. Zinc chloride is then added and the mixture is allowed to warm to 0–30° C., at which time iodo alkyl 9 is added, followed by tetrakis triphenylphosphine palladium. The mixture is then optionally left stirring at a temperature from room temperature to about 80° C. to yield oxazole/thiazole indole 10.The hydrolysis of 10 by methods known to those skilled in the art yields oxazole/thiazole acid 11. Oxazole/thiazole acid 11 is coupled to amine (VIII) using methods known to those skilled in the art.

reactant | Oxazole | O1C=NC=C1 | C3H3NO
reactant | thiazole | S1C=NC=C1 | C3H3NS
reactant | butyl lithium | C(CCC)[Li]
catalyst | Zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
product | oxazole thiazole indole | O1C=NC=C1.N1C=CC2=CC=CC=C12.S1C=NC=C1 | InChI=1S/C8H7N.C3H3NO.C3H3NS/c1-2-4-8-7(3-1)5-6-9-8;2*1-2-5-3-4-1/h1-6,9H;2*1-3H
